US05308842
Step C: Preparation of 3,4-dihydro-2-ethoxycarbonylmethyl-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide
Under a nitrogen atmosphere, sodium hydride (0.44 g of 60% suspension in mineral oil, 0.011 mol) was washed free of mineral oil with petroleum ether. A solution of 3,4-dihydro-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide (2.32 g, 0.01 mol) in dimethylformamide (10 ml) was added dropwise with stirring over 1/4 hr. Stirring was continued for another 1/2 hr in the cooling bath. Then ethyl bromoacetate (1.25 ml, 0.011 mol) was added and the mixture was stirred for 1/4 hr. with cooling and 1 3/4 hrs. at ambient temperature. The volatile components were removed under high vacuum. The oil-solid residue was extracted with ethyl acetate (2×25 ml). The combined extracts were washed with saturated NaCl, dried, filtered and concentrated in vacuo to a viscous yellow oil (2.75 g). Yield was 86%.

reactant | sodium hydride | 0.011 mol, 0.44 g | [H-].[Na+]
reactant | 3,4-dihydro-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide | 0.01 mol, 2.32 g | C(C)NC1CNS(C2=C1C=CS2)(=O)=O | C8H12N2O2S2
reactant | ethyl bromoacetate | 0.011 mol, 1.25 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-2-ethoxycarbonylmethyl-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide | Yield was 86% | C(C)OC(=O)CN1S(C2=C(C(C1)NCC)C=CS2)(=O)=O | C12H18N2O4S2
